US07511050B2
Step E: 3-Pentyl-2-thioxo-8-(trifluoromethyl)-1,2,3,7-tetrahydro-6H-purin-6-one
5,6-Diamino-1-pentyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one (2.0 g, 0.0088 mol) was mixed with trifluoroacetic anhydride (10 mL, 0.07 mol). After stirring at 45° C. for 2 h, the excess trifluoroacetic anhydride was removed at reduced pressure. The residue was dissolved in N,N-dimethylformamide (5 mL) and heated at 95° C. for 1 h. After cooling to room temperature, the reaction mixture was diluted with water and extracted with ethyl acetate. The combined organic layers were dried over anhydrous Na2SO4, filtered and concentrated. The solid residue was washed with ether to provide the desired product (1.50 g, 55.9%). LCMS calculated for C11H14F3N4OS: (M+H) 307.1; found 307.1.

reactant | 5,6-Diamino-1-pentyl-2-thioxo-2,3-dihydropyrimidin-4(1H)-one | 0.0088 mol, 2.0 g | NC=1C(NC(N(C1N)CCCCC)=S)=O | C9H16N4OS
reactant | trifluoroacetic anhydride | 0.07 mol, 10 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 3-Pentyl-2-thioxo-8-(trifluoromethyl)-1,2,3,7-tetrahydro-6H-purin-6-one | 1.50 g, 55.9% | C(CCCC)N1C(NC(C=2NC(=NC12)C(F)(F)F)=O)=S | C11H13F3N4OS
